US06602882B1
(a) 1-Heptyl-4-hydroxypiperidine
4-Hydroxypiperidine was dissolved in N,N-dimethylformamide (20 ml) and treated with potassium carbonate (1.5 g, 10.8 mmol) and 1-iodoheptane (1.8 ml, 11.3 mmol). After stirring for 2 h the mixture was diluted with ethyl acetate, washed with water, brine, dried and evaporated.

reactant | 4-Hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 10.8 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodoheptane | 11.3 mmol, 1.8 ml | ICCCCCCC | C7H15I
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Heptyl-4-hydroxypiperidine | C(CCCCCC)N1CCC(CC1)O | C12H25NO
